US07723333B2
1-Methylpiperidin-4-yl N-(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-beta-alaninate
The title compound was prepared from 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1-methylpiperidin-4-yl β-alaninate hydrochloride in a similar manner as described for Example 164. Mass Spectrum: [M+H]+ 450.12, [M−H]− 448.23.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-methylpiperidin-4-yl β-alaninate hydrochloride | Cl.NCCC(=O)OC1CCN(CC1)C
product | 1-Methylpiperidin-4-yl N-(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)-beta-alaninate | C(C)(C)(C)N1S(C(=C(C1=O)NCCC(=O)OC1CCN(CC1)C)C1=CC=CC=C1)(=O)=O | C22H31N3O5S
